US04954501
6-[4-(2-acetamidoethyl)amino-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
0.40 ml (4.23 mmol) of acetic anhydride is added to a solution of 1.00 g (3.43 mmol) of 6-[4-(2-aminoethyl)amino-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone in 10 ml of glacial acetic acid and the solution is stirred at room temperature for 20 hours. The precipitated solid is suction filtered and washed with 5 ml of dichloromethane. The mother liquor is concentrated by evaporation under vacuum and the residue obtained is stirred up with 5 ml of dichloromethane and filtered. The two crystal fractions are recrystallized together from ethanol (99.7%). 0.86 g (75%) of orange coloured crystals, m.p. 222° C., are obtained.

reactant | acetic anhydride | 4.23 mmol, 0.40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 6-[4-(2-aminoethyl)amino-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 3.43 mmol, 1.00 g | NCCNC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C13H17N5O3
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(2-acetamidoethyl)amino-3-nitro-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(C)(=O)NCCNC1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C15H19N5O4
